US07173048B2
5-chloromethyl-1-methyl-3-(4-trifluoromethyl-phenyl)-1H-pyrazole was prepared in analogy to the preparation of 5-chloromethyl-1-methyl-3-(3,4,5-trimethoxy-phenyl)-1H-pyrazole described by Kodama et al. (U.S. Pat. No. 6,472,386), but starting from 4-trifluoromethylacetophenone instead of 3′4′5′-trimethoxyacetophenone.

reactant | 5-chloromethyl-1-methyl-3-(3,4,5-trimethoxy-phenyl)-1H-pyrazole | ClCC1=CC(=NN1C)C1=CC(=C(C(=C1)OC)OC)OC | C14H17ClN2O3
reactant | 4-trifluoromethylacetophenone | CC(=O)C1=CC=C(C=C1)C(F)(F)F | C9H7F3O
product | 5-chloromethyl-1-methyl-3-(4-trifluoromethyl-phenyl)-1H-pyrazole | ClCC1=CC(=NN1C)C1=CC=C(C=C1)C(F)(F)F | C12H10ClF3N2
